### PR TITLE
Sam's solution to the bakeoff

### PR DESCRIPTION
**Pull request by gelisam**
Since my solution is already in `master`, this is a fake PR targeting a dummy branch, just so we can have a place where we can attach comments to various parts of my solution.

### CODE REVIEW

File: gelisam/bake_off/Main.agda [hunk 1]
```diff
@@ -0,0 +1,306 @@
...
+          → x ∈ shorter min as
+          × x ≥ n + suc min
+    recur
+      = lemma distinct-shorter shorter≥min+1
+    
+    convert : ∀ {x}
+            → x ≥ n + suc min
+            → x ≥ suc n + min
+    convert {x}
+      = subst (λ * → x ≥ *) (+-suc n min)
```
Comment (gelisam) [inline gelisam/bake_off/Main.agda]: Here is a prose version of the above lemma.

Proposition: if `as` is a list of `n+1` distinct integers, all `min` or greater, then there exists an element `x` of `as` which is `min + n` or greater.

We proceed by induction on `n`.

Base case (`n=0`): the list has only one inhabitant, `a`. By hypothesis, it is `min` or greater, and thus `min+0` or greater, as desired.

Inductive case (`n=k+1`): `as` has `k+1` elements; let's construct a shorter list `shorter min as` of length `k` by removing the first occurrence of `min` from the list, or if there is no such occurrence, remove the last element instead.

Since we've removed any `min` (and there can only be one `min`) and the elements of `as` are all `min` or greater, we can conclude that the remaining elements are all `min + 1` or greater (see `shorter-bumps-min` for details). This allows us to apply the induction hypothesis on a shorter list (of length `k` instead of `k+1`) but with a larger lower bound, `min + 1` instead of `min`.

According to our induction hypothesis, there exists an element `x` of `shorter min xs` which is `min+1 + k` or greater. That element is thus `min+1 + k` or greater, as desired.

File: gelisam/bake_off/Main.agda [hunk 2]
```diff
@@ -0,0 +1,306 @@
...
+  → x
+  , x∈ns
+  , convert x≥n+1
+  }
+  where
+    convert : ∀ {x}
+            → x ≥ n + 1
+            → x ≥ suc n
+    convert {x}
+      = subst (λ * → x ≥ *) (+-comm n 1)
```
Comment (gelisam) [inline gelisam/bake_off/Main.agda]: Here is a prose version of the above proof.

Proposition: if `ns` is a non-empty list of distinct integers, all greater than zero, then there exists an element `x` of `ns` such that `1+n ≤ x`.

Proof: `as` has length `n+1`, and all of its elements are `1` or greater. According to our lemma, this means there exists an element `x` which is `1 + n` or greater, as desired.

File: gelisam/bake_off/Main.agda [hunk 3]
```diff
@@ -0,0 +1,306 @@
...
+                  {as = as}
+                  distinct
+                  as≥min
+  = bump-≥s min∉shorter shorter≥min 
+  where
+    min∉shorter : min ∉ shorter min as
+    min∉shorter = shorter-removes-duds distinct
+
+    shorter≥min : All (λ a → a ≥ min) (shorter min as)
+    shorter≥min = shorter-preserves-All as≥min
```
Comment (gelisam) [inline gelisam/bake_off/Main.agda]: This proposition, and all the other helper functions before it, are exceedingly trivial for humans, but need to be spelled out in Agda. Here's what it would sound like if we were to nevertheless spell it out in prose for a human.

Consider a list `as` of `n+1` distinct integers, all `min` or greater. Remove the first occurrence of `min` from `as`, or if there is no such occurrence, removing the last element instead. Name the result `shorter min as`. We show that the elements of `shorter min as` are all `min+1` or greater.

First, since all the elements of `as` are `min` or greater, and we're only removing elements, then the elements of `shorter min as` are also `min` or greater. See `shorter-preserves-All` for details.

Second, since we've removed `min` from `as`, if any, and all the elements are distinct, then there can be no other `min` in `shorter min as`. Thus, `min` is not an element of `shorter min as`.

Since we now know that every element is `min` or greater, and also that every element is not `min`, we can now conclude that every element is `min+1` or greater.
